Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
___ / adhesive tape
 
Attending: ___.
 
Chief Complaint:
right breast cancer
 
Major Surgical or Invasive Procedure:
1. right modified radical mastectomy 

 
History of Present Illness:
Discussion for upcoming surgery ___

First surgery for this ___ yr old patient

Recent genetic testing showed PALB2 mutation

To see genetics and oncology after this appointment

Discussion of unilateral vs bilateral mastectomies

Patient not interested in reconstruction

Reviewed pros and cons of each

Patient anxious about surgery and wants to heal quickly

Reassured her that she can have contralateral mastectomy at a 
later date.

Surgery next week would treatment for her locally advanced right 
breast cancer- plan right modified radical mastectomy without 
reconstruction

 

HX

___ Med Onc consult, R breast more erythematous and firm. 
D/w dr ___ - if does not resolve might need punch bx. L hip 
pain. Plan staging, await FISH. 

___ Staging NEG except for elevated markers: cea 3.5 
___ 60 Labs otherwise ok x bs 295. CT c/a/p and bone scan 
without mets. Follow up pelvic US to evaluate large uterus -> 
multiple fibroids, endometrium 0.8 cm, CT head to evaluate 
parietal bones -> neg. 6 mo f/u for non-specific 4 mm pulm 
nodules needed. 

Echo wnl. 

FISH negative - two blocks assessed. [1.4x, 1.1x]. 

___ R breast skin bx + invasive ductal carcinoma, grade 
___, invading dermis, LVI+ inflammatory disease versus skin met? 
Stage IIIB [T4d N1 M0] or stage IV [T3 N1 M1]

Plan - neoadjuvant ddAC/T

___ Routine dental visit identifies a tooth abscess [no 
sx] and a right tongue lesion [present x ___ yrs]. Chemo and port 
were delayed. On ___ at ___ clinic she underwent 
extraction of a left mandibular molar and excisional biopsy of a 
right tongue mass [path later returned as benign fibroma]. 
Augmentin ×1 week. 

___ C1D1 neoadjuvant ddAC, consent signed. 

___ C2 neoadj ddac

___ C3 neoadj ddac

___ C4 neoadj ddac

___ C1 neoadj dd T, had partial clincal response to ddAC

___ C2 neoadj ddT, continued clinical improvement 

___ C3 neoadj ddT, 

___ - C4 taxol neoadjuvant for her locally advanced likely 
inflammatory right breast cancer. 

Chemotherapy has been complicated by severe musculoskeletal 
pains, bilateral hips, posterior thighs and calves. Improves w 
tylenol now taking 2 bid and massage. Minimal bilateral ankle 
swelling and calf fimrness. No sob or chest pain. She had the 
same symptoms after cycles 1 and 2 but less long-lasting. She 
has no back pain. She has no muscle cramping. She is tearful 
about this pain. She also experiences bilateral axillary pain x 
3 days after the taxol. This then resolves. She has no otherwise 
stable side effects - She has stable grade 1 neuropathy in her 
fingertips, it feels like "poking" . Energy is been fairly good, 
she is doing most activities occasionally takes a little nap in 
the morning. She's had no GI side effects and her appetite 
remains good. 
 
Past Medical History:
DM
migraines
HLD
invasive carcinoma R breast
Indeterminate pulmonary nodules 

 
Social History:
___ - ___

Lives with husband, 

Tobacco & Alcohol Use

  Tobacco Use: Never       

  Alcohol Use: Not Asked   

 

Cigarettes - none

etoh - < 1 /week

Diet - average - 

Exercise - none
 
Family History:
MAT AUNT:BREAST CA.MAT GRANDMOTHER:STOMACH CA.  
F- W/HTN, GOUT, GM W/STOMACH CA. 
FATHER HBP 

___ - mother w leukemia dx ___, gmom stomach dx ___, 

Paternal - uncles w primary liver cancer - hepatitis? 

1 sister - no cancer, no other siblings
 
Physical Exam:
97.9 68 128/77 18 100RA
Gen: NAD
CV: RRR
R: clear, unlabored
Chest: wound c/d/i, healing well, no 
seroma/bruising/drainage/erythema, JP drains in place productive 
of serosang fluid 
Ext: no c/c/e, good range of motion in RUE, no tingling noted or 
swelling

 
Pertinent Results:
Pathology pending- right breast tissue; right axillary node 
dissection
 
Brief Hospital Course:
The patient was admitted to the breast surgery service after 
undergoing a right modified radical mastectomy for invasive 
ductal carcinoma (stage IIIb vs IV; ER+/PR-/Her2-; PALB2 
mutation). The procedure was uncomplicated and a two JP drain 
were placed in the right axilla. The patient did well 
post-operatively in the PACU and was transferred to the floor in 
stable condition. She voided appropriately, tolerated clears 
initially and was advanced to regular diet as tolerated. Her 
pain was well controlled initially on a combination of oral and 
IV pain medication, which was transitioned to oral medication 
alone prior to discharge with good relief. She received SQH and 
ambulated frequently. Her blood sugars were closely monitored 
and her insulin sliding scale titrated as needed. She was 
discharged home on POD2 in stable condition with ___ services to 
provide drain care. She will be seen in breast surgery clinic in 
___ weeks for follow up and likely drain removal. 
 
Medications on Admission:
___:
- anastrozole 1 qid
- lantus 100 qpm
- losartan 25 bid
- metformin 500 qid
- ibuprofen 200 tid
- loratadine 10 qid
- magnesium oxide 400 qid
- vit B6 100 qid
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe  
3.  Anastrozole 1 mg PO DAILY  
4.  Glargine 12 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
5.  Losartan Potassium 25 mg PO DAILY  
6.  MetFORMIN XR (Glucophage XR) ___ mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
1. right invasive ductal carcinoma, stage IIIb versus IV 
(ER+/PR-/Her2-; PALB2 mutation)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the breast surgery service for observation 
after undergoing a right modified radical mastectomy. Your 
procedure went well and you did well post-operatively. You are 
being discharged home in stable condition. 

Please follow the directions below;

Personal Care: 
1. You may remove your surgical dressing after 48 hours and 
leave your incision open to air.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water. 
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day. 
4. A written record of the daily output from your drain should 
be brought to every follow-up appointment. Your drain will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount. 
5. You may shower daily. No baths until instructed to do so by 
Dr. ___.
6. You may wear a soft, non-restrictive camisole but no tight or 
underwire bras. 

Activity: 
1. You may resume your regular diet. 
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for two weeks. 

Medications: 
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered. 
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol. 
3. Take prescription pain medications (tramadol) for pain not 
relieved by tylenol.
4.Take Colace, 100 mg by mouth 2 times per day, while taking the 
prescription pain medication. You may use a different 
over-the-counter stool softener if you wish. 
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (tramadol, oxycodone, percocet, 
vicodin, hydrocodone, dilaudid, etc.); you should continue 
drinking fluids, you may take stool softeners, and should eat 
foods that are high in fiber. 

Call the office IMMEDIATELY if you have any of the following: 
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s). 
2. A large amount of bleeding from the incision(s) or drain(s). 
3. Fever greater than 101.5 oF 
4. Severe pain NOT relieved by your medication. 

Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you. 
* Any serious change in your symptoms, or any new symptoms that 
concern you. 

DRAIN DISCHARGE INSTRUCTIONS 
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.
Thank you for allowing us to participate in your care.

 
Followup Instructions:
___